US06518303B2
To a solution of N,N-dibenzyl-4-(2-bromoacetyl)benzenesulfonamide (10.5 g, 23 mmoles), and p-chlorophenol (2.94 g, 23 mmoles) in methylene chloride (42 ml), potassium carbonate (4.83 g, 34.7 mmoles) and tetrabutylammonium bromide (0.42 g, 1.2 mmoles) in water (140 ml)was added. The reaction mixture was refluxed for 16 hours. After cooling, the mixture was diluted with methylene chloride (150 ml). The organic layer was separated, washed with water, and dried (Na2SO4) The solvent was removed under reduced pressure. N,N-dibenzyl-4-[2-(4-chlorophenoxy)acetyl]benzenesulfonamide (11.7 g) was obtained as a semisolid residue, which was used in the next step without further purification.

reactant | N,N-dibenzyl-4-(2-bromoacetyl)benzenesulfonamide | 23 mmoles, 10.5 g | C(C1=CC=CC=C1)N(S(=O)(=O)C1=CC=C(C=C1)C(CBr)=O)CC1=CC=CC=C1 | C22H20BrNO3S
reactant | p-chlorophenol | 23 mmoles, 2.94 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | potassium carbonate | 34.7 mmoles, 4.83 g | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | 42 ml | C(Cl)Cl | CH2Cl2
catalyst | tetrabutylammonium bromide | 1.2 mmoles, 0.42 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 140 ml | O | H2O
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | N,N-dibenzyl-4-[2-(4-chlorophenoxy)acetyl]benzenesulfonamide | 11.7 g | C(C1=CC=CC=C1)N(S(=O)(=O)C1=CC=C(C=C1)C(COC1=CC=C(C=C1)Cl)=O)CC1=CC=CC=C1 | C28H24ClNO4S
